US06191150B1
Methyl (2R,3R)-2-cyclohexylmethyl-3-hydroxyhexanoate (3.44 g, 14.2 mmol) is dissolved in 3:1:1 THF-MeOH-H2O (35 mL). To this is added lithium hydroxide monohydrate (1.79 g, 42.6 mmol). The reaction mixture is stirred for 18 h at 25° C. and the mixture is then extracted with ether. The aqueous layer is acidified with solid sodium bisulfate and then extracted with two 250-mL portions of ether. The combined organics are washed with saturated aqueous sodium chloride, dried over sodium sulfate, and concentrated under reduced pressure to afford (2R,3R)-2-cyclohexylmethyl-3-hydroxyhexanoic acid as a solid (3.05 g, 96% yield).

reactant | Methyl (2R,3R)-2-cyclohexylmethyl-3-hydroxyhexanoate | 14.2 mmol, 3.44 g | C1(CCCCC1)C[C@@H](C(=O)OC)[C@@H](CCC)O | C14H26O3
reactant | lithium hydroxide monohydrate | 42.6 mmol, 1.79 g | O.[OH-].[Li+]
solvent | THF MeOH-H2O | 35 mL | C1CCOC1.CO.O
product | (2R,3R)-2-cyclohexylmethyl-3-hydroxyhexanoic acid | 3.05 g, 96% yield | C1(CCCCC1)C[C@@H](C(=O)O)[C@@H](CCC)O | C13H24O3
